US08138179B2
a1) 2-[6-Cyano-1-(1-trityl-1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-yloxy]ethyl methanesulphonate
5 mmol of triethylamine and 2.0 mmol of methanesulphonyl chloride are added to a solution of 1.0 mmol of 5-(2-hydroxyethoxy)-5-(1-trityl-1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile in 10 ml of dichloromethane at 0° C. The reaction mixture is stirred at 0° C. for 1 hour, diluted with dichloromethane, washed with 1N HCl, dried with sodium sulphate and evaporated. The crude title compound is identified on the basis of the Rf and used without further purification in the next stage.

reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 2.0 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(2-hydroxyethoxy)-5-(1-trityl-1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 1.0 mmol | OCCOC1(C=2C=CC(=CC2CCC1)C#N)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[6-Cyano-1-(1-trityl-1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-yloxy]ethyl methanesulphonate | CS(=O)(=O)OCCOC1(CCCC2=CC(=CC=C12)C#N)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H33N3O4S
